US07276603B2
6-chloro-8-{4-[2-(5-methoxy-1-benzofuran-3-yl)-1-methylethyl)piperazin-1-yl]quinoline was prepared by generally following the procedure outlined in example 38, step 2, starting from the 1-(5-methoxy-1-benzofuran-3-yl)acetone (204 mg, 1. mmol) and 6-chloro-8-piperazino quinoline (247.0 mg, 1 mmol) in 1,2-dichloroethane (100 ml) and acetic acid (1 ml), sodium triacetoxyborohydride (422 mg, 2 mmol). The product was purified by silica-gel column chromatography by eluting it initially with 80% ethyl acetate:hexane and then with 5% methanol:ethyl acetate, yielding a yellow oil.Yield: 54 mg (12%); (M+H): 436; 1HNMR (400 MHz, CDCl3): δε8.82˜8.81 (dd, J1=1.8 Hz, J2=1.8 Hz, 1H); 8.02˜8.00 (dd, J1=1.8 Hz, J2=1.8 Hz, 1H); 7.99˜6.58 (m, 7H); 3.87 (s, 3H); 3.46˜2.62 (m, 11H); 1.15˜1.13 (d, J=6.0 Hz, 3H).

reactant | 1-(5-methoxy-1-benzofuran-3-yl)acetone | 204 mg | COC=1C=CC2=C(C(=CO2)CC(=O)C)C1 | C12H12O3
reactant | 6-chloro-8-piperazino quinoline | 1 mmol, 247.0 mg | ClC=1C=C2C=CC=NC2=C(C1)N1CCNCC1 | C13H14ClN3
reactant | sodium triacetoxyborohydride | 2 mmol, 422 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-8-{4-[2-(5-methoxy-1-benzofuran-3-yl)-1-methylethyl)piperazin-1-yl]quinoline | ClC=1C=C2C=CC=NC2=C(C1)N1CCN(CC1)C(CC1=COC2=C1C=C(C=C2)OC)C | C25H26ClN3O2
